Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ temporal pain, diffuse upper arm and thigh weakness 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ female with a history of HTN and HLD who p/w
approximately 3 weeks of generalized myalgias and weakness, 3
days of temporal artery swelling, and CRP > 300 c/f PMR, GCA. 

Overall she has been feeling well. She was seen by her PCP at 
___
about 1 month ago for evaluation of multiple medical issues, all
stable. Of note, she had returned from a prolonged trip to ___
where she has a cardiologist who started her on a statin
approximately 6 months ago and on aspirin 81 daily. She also was
told that she has CAD, with stress perfusion study that showed
reversible decreased apical perfusion. Her cardiologist had 
recommended further evaluation with cardiac catheterization, but
she deferred until her return to ___. Her PCP ordered ___ 
repeat
ETT perfusion study but the patient has not had time to schedule
it yet. 

Her PCP makes note in the clinic visit note that she has been
reporting "pinching" right hip pain, present for the past 
several
months in the setting of a lot of physical and manual labor with
a move in her apartment in ___.  She reports that she has 
been
taking a lot of ibuprofen for this (~400mg-600mg BID daily).

She was in her usual state of health and activity, when, about
___ weeks ago she began to feel diffuse myalgias in her upper
arms and thighs. No appreciable weakness. No systemic symptoms
such as fevers, chills. Then, approximately 3 days ago, she
developed facial swelling and left greater than right temporal
area pain, with associated difficulty in chewing. In addition,
she developed a bilateral headache, which she localizes to the
lateral aspects of her forehead. No other symptoms; no visual
changes, no palpations, shortness of breath, polyuria, dysuria,
polyphagia, changes in bowel habits, chest pain, nausea,
vomiting. She checks her BP at home and they have been in the
normal range for her which is SBPs100-130 depending on the time
of day and level of preceding activity. There is note of recent
dental procedure, but the patient clarified that she got new
dentures, not any procedure.

On the day prior to admission, she saw her PCP who reported
exquisite temporal area pain, and labs which revealed a white
count of 19.4, plt of 477, and a CRP greater than 300. She was
referred to the emergency room with concern for giant cell
arteritis and/or polymyalgia rheumatica.

 
Past Medical History:
+ HTN
+ HLD
+ ? R hip bursitis
 
Social History:
___
Family History:
Daughter with DM2
No family history of which she is aware of autoimmune 
conditions,
vasculitis, thyroidal illness
 
Physical Exam:
Admission PE 
GENERAL:  very well appearing. 
SKIN:  No rashes, no bruising.
HEENT:  Notable for visible, palpable, mildly tender swelling
over thetemporal areas bilaterally. Temporal artery palpable at 
the level
of the scalp. No beading or nodularity appreciated.  EOMI,
PERRLA. Fundoscopic exam not performed.
NECK:  Supple, with good range of motion, no goiter and no 
bruit.
LYMPH NODES:  No palpable LAD supraclavicular, cervical
CARDIAC: rrr, no m/r/g.
LUNGS: cta b
MUSCULOSKELETAL:  Shows no joint inflammation. Full ROM of all
joints, proximal and distal. 
NEUROLOGIC:  CN II-XII in tact. Strength ___ in UE, ___.
EXT: warm, well perfused, no edema, strong pulses appreciated 2+
DP, ___, femoral, carotid, brachial.

Discharge PE GENERAL:  very well appearing. 
SKIN:  No rashes, no bruising.
HEENT:  No swelling. No tenderness of the scalp. No beading or 
nodularity appreciated.  EOMI.
PERRLA. Fundoscopic exam not performed.
NECK:  Supple, with good range of motion, no goiter and no 
bruit.
LYMPH NODES:  No palpable LAD supraclavicular, cervical
CARDIAC: rrr, no m/r/g.
LUNGS: cta b
MUSCULOSKELETAL:  Shows no joint inflammation. Full ROM of all
joints, proximal and distal. 
NEUROLOGIC:  CN II-XII in tact. Strength ___ in UE, ___.
EXT: warm, well perfused, no edema, strong pulses appreciated 2+
DP, ___, femoral, carotid, brachial.
 
Pertinent Results:
___ 06:45AM BLOOD CRP-287.9*8

___ 06:45AM BLOOD WBC-17.1* RBC-3.27* Hgb-9.0* Hct-27.4* 
MCV-84 MCH-27.5 MCHC-32.8 RDW-11.8 RDWSD-35.7 Plt ___

___ 06:45AM BLOOD ALT-89* AST-63* LD(LDH)-164 AlkPhos-64 
TotBili-0.2

___ 06:45AM BLOOD Glucose-134* UreaN-31* Creat-0.8 Na-144 
K-4.0 Cl-107 HCO3-21* AnGap-16

___ 09:14AM BLOOD ___ PTT-29.0 ___

___ 08:47AM BLOOD calTIBC-225* VitB12-552 Ferritn-535* 
TRF-173*

 
Brief Hospital Course:
___ woman with history of HTN and HLD who presented with 
___ weeks of generalized myalgias, 3 days of R temporal artery 
swelling, new bitemporal headache, found to have exquisite scalp 
tenderness, leukocytosis, thrombocytosis, and CRP > 300 at ___'s 
office, sent to ED with concern for PMR, GCA and started on 
prednisone 60mg with great symptom improvement.

ACUTE ISSUES:

# Likely giant cell arteritis
# Likely polymyalgia rheumatica
Would need biopsy to prove diagnosis, but patient declined and 
family feels confident that her symptoms are c/w the diagnosis 
and do not want to pursue further work-up that could cause 
distress or pain. They are accepting of the fact that patient 
will be committed to months (up to a year) of high-dose 
steroids. Patient has responded very well to steroids, which 
significantly supports the diagnosis. Ophthalmology exam was 
reassuring. In addition to high-dose steroids, she will be 
started on medications to prevent complications of longterm high 
dose steroids, including ulcer prophylaxis, bone mineral density 
protection, and PCP PNA prophylaxis. Because PCP PNA ppx 
required initiation of Bactrim, her lisinopril was switched to 
amlodipine to avoid potentially fatal hyperkalemia. 

# Hepatocellular transaminitis
# Mild hepatic synthetic dysfunction
Stably elevated LFTs up from baseline, mildly elevated INR and 
low albumen. This may be c/w GCA which can have extracranial 
manifestations. If these labs do not improve with other 
symptoms, should have separate work-up per primary care 
provider. Included in transitional issues. 

STABLE ISSUES:

# Hypertension
Continued home atentolol. Stopped home lisinopril to avoid 
hyperkalemia interaction w Bactrim (see above), replaced with 
amlodipine 10mg daily. 

# Coronary artery disease
Stopped home statin given elevated liver enzymes. Continued home 
aspirin. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atenolol 100 mg PO DAILY 
4. Rosuvastatin Calcium 10 mg PO QPM 

 
Discharge Medications:
1.  Alendronate Sodium 70 mg PO QMON 
RX *alendronate 70 mg 1 tablet(s) by mouth once a week Disp #*4 
Tablet Refills:*2 
2.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
3.  Calcium Carbonate 1000 mg PO DAILY 
RX *calcium carbonate 500 mg calcium (1,250 mg) 2 tablet(s) by 
mouth once a day Disp #*60 Tablet Refills:*2 
4.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
5.  PredniSONE 60 mg PO DAILY 
RX *prednisone 20 mg 3 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
6.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tab-cap by 
mouth once a day Disp #*30 Tablet Refills:*2 
7.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 0.5 (One half) 
tablet(s) by mouth once a day Disp #*15 Tablet Refills:*2 
8.  Aspirin 81 mg PO DAILY  
9.  Atenolol 100 mg PO DAILY  
10. HELD- Rosuvastatin Calcium 10 mg PO QPM  This medication was 
held. Do not restart Rosuvastatin Calcium until your doctor says 
it is safe to do so. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
- Giant cell arteritis
- Polymyalgia rheumatica 

Secondary Diagnoses:
- Hypertension
- Coronary artery disease 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
MEDICINE Discharge Worksheet   
================================================  
Dear Ms. ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
 - You were admitted because of your temporal artery pain and 
other concerning symptoms. 

What was done for me while I was in the hospital?  
 - You were started on steroids and given the diagnosis of giant 
cell arteritis and polymyalgia rheumatica. This diagnosis was 
based on your symptoms as well as your labs. You were seen by 
the specialists in this diagnosis, the rheumatology team. 
 - You discussed a temporal artery biopsy with our vascular 
surgeons, which would be the way to definitively diagnose your 
condition, and you declined the biopsy. You also declined to 
have an ultrasound done of these arteries, which might help 
confirm the diagnosis. 
 
What should I do when I leave the hospital?  
 - You will have to take many medications to manage the side 
effects of your steroids. Please see below for all of the 
prescriptions. If you have any questions, please discuss them 
with your rheumatology doctor or your primary care doctor. 
 - Please go to your follow up appointments as scheduled in the 
discharge papers.  
 - Please monitor for new/or worsening symptoms. If you do not 
feel like you are getting better or have any other concerns, 
please call your doctor to discuss or return to the emergency 
room.  

Sincerely,  
 Your ___ Care Team  

 
Followup Instructions:
___